US08729071B2
A mixture of benzyl 5-bromopicolinate (2.92 g, 10 mmol), potassium isopropenyl trifluoroborate (3.05 g, 21 mmol), Pd(dppf)Cl2 (445 mg, 0.54 mmol), and Et3N (1.4 mL) in isopropyl alcohol (20 mL) was degassed with N2 and heated at 80° C. for 7 h. The mixture was cooled to room temperature and diluted with EtOAc. The organic layer was washed with H2O, 5% citric acid, sat. NaHCO3 (aq.) and brine, then dried (MgSO4) and concentrated. The product benzyl 5-isopropenylpicolinate (1.27 g) was obtained by silica gel chromatography (elution with 0-16% EtOAc/Hex).

reactant | benzyl 5-bromopicolinate | 10 mmol, 2.92 g | BrC=1C=CC(=NC1)C(=O)OCC1=CC=CC=C1 | C13H10BrNO2
reactant | Et3N | 1.4 mL | CCN(CC)CC | C6H15N
reactant | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
catalyst | Pd(dppf)Cl2 | 0.54 mmol, 445 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | benzyl 5-isopropenylpicolinate | 1.27 g | C(=C)(C)C=1C=CC(=NC1)C(=O)OCC1=CC=CC=C1 | C16H15NO2
